US05262540
Sodium metal (1.68 g, 73 mg atom) was dissolved in ethanol (160 mL) and 3-hydroxycinnamic acid (10 g, 6 mmol) added. After stirring for 5 minutes, concentrated H2SO4 (4 drops) was added followed by 2-bromo-2-phenoxyacetophenone (16.76 g, 6 mmol) and the mixture heated to reflux. After 135 minutes, the mixture was cooled, diluted with water and extracted with CH2Cl2. The combined extracts were dried over sodium sulfate and concentrated to leave an oil which was dissolved in acetic acid (110 mL). Ammonium acetate (23.47 g, 300 mmol) was added and the mixture heated to reflux. After 75 minutes, the solution was cooled, diluted with water and extracted with CH2Cl2. The organic extracts were dried over sodium sulfate and the solvent evaporated to leave a khaki solid that was triturated with diethyl ether to give (10.80 g, 52%). Recrystallization of a 1.5 g sample from ethanol gave 0.7 g of analytically pure 3-[2-(4,5-diphenyl2-oxazolyl)ethenyl]phenol, m.p. 201°-203° C.

reactant | Sodium | 1.68 g | [Na] | Na
reactant | 3-hydroxycinnamic acid | 6 mmol, 10 g | OC=1C=C(C=CC(=O)O)C=CC1 | C9H8O3
reactant | 2-bromo-2-phenoxyacetophenone | 6 mmol, 16.76 g | BrC(C(=O)C1=CC=CC=C1)OC1=CC=CC=C1 | C14H11BrO2
reactant | Ammonium acetate | 300 mmol, 23.47 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 160 mL | C(C)O | C2H6O
catalyst | H2SO4 | 4 drops | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
product | 3-[2-(4,5-diphenyl2-oxazolyl)ethenyl]phenol | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=CC=1C=C(C=CC1)O | C23H17NO2
